US05736597
23.8 g (0.06 mol) of 2-(2,4-dihydroxyphenyl)-4,6-bis-(2,4-dimethylphenyl)-1,3,5-triazine (prepared as described in U.S. Pat. No. 3,244,708 Example 16) are suspended in 300 ml of xylene. 12.1 g (0.09 mol) of 97% butyl glycidyl ether and 0.75 g (0.006 mol) of dimethylbenzylamine are added to this suspension, and the mixture is heated to reflux temperature. After a reaction time of 5 hours the clear, brownish solution is cooled and clarified by filtration through 100 g of silica gel. The yellow solution is evaporated and the residue is recrystallized from hexane/toluene. This gives 27.3 g of pale yellow crystals of 2-[2-hydroxy-4(3-butoxy-2-hydroxypropyloxy)-phenyl]-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazin (=86% yield). Melting point: 80°-83° C. (Compound 1).

reactant | 2-(2,4-dihydroxyphenyl)-4,6-bis-(2,4-dimethylphenyl)-1,3,5-triazine | 0.06 mol, 23.8 g | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C25H23N3O2
reactant | butyl glycidyl ether | 0.09 mol, 12.1 g | C(C1CO1)OCCCC | C7H14O2
reactant | dimethylbenzylamine | 0.006 mol, 0.75 g | CN(CC1=CC=CC=C1)C | C9H13N
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[2-hydroxy-4(3-butoxy-2-hydroxypropyloxy)-phenyl]-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazin | 86% yield | OC1=C(C=CC(=C1)OCC(COCCCC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C32H37N3O4
